US05439911
Sodium azide (1.73 g, 26.61 mmol) was added to a solution of 4-(2-(tetrahydropyran-2-yloxy)ethyl)phenethyl methanesulfonate (5.24 g, 15.95 mmol) in N,N-dimethylformamide (50 ml). The mixture was stirred at 100° C. for 1 hour. Water (40 ml) was added to the reaction mixture. The mixture was extracted with ethyl ether and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting9 with n-hexane/ethyl acetate (=20/1) to give the desired 4-(2-(tetrahydropyran-2-yloxy)ethyl)-1-(2-azidoethyl)benzene (4.30 g, 98%).

reactant | Sodium azide | 26.61 mmol, 1.73 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-(2-(tetrahydropyran-2-yloxy)ethyl)phenethyl methanesulfonate | 15.95 mmol, 5.24 g | CS(=O)(=O)OCCC1=CC=C(C=C1)CCOC1OCCCC1 | C16H24O5S
reactant | Water | 40 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(2-(tetrahydropyran-2-yloxy)ethyl)-1-(2-azidoethyl)benzene | 4.30 g, 98% | O1C(CCCC1)OCCC1=CC=C(C=C1)CCN=[N+]=[N-] | C15H21N3O2
